US07446222B2
2′-{5-Chloro-2-(benzyloxy)-3-pyridinyl]-3-biphenylcarboxylic acid ethyl ester
3-(2-Bromophenyl)-5-chloro-2-(benzyloxy)pyridine (80 mg, 0.214 mmol) and 3-(carbethoxy)phenylboronic acid (42 mg, 0.214 mmol) were dissolved in toluene/ethanol (1:1 1 ml) under nitrogen. Potassium carbonate (236 mg, 1.71 mmol) and tetrakis(triphenylphosphine)palladium(0) (25 mg, 0.0214 mmol) were added and the resulting mixture was heated at 70° C. in a Smithoreator® microwave for 15 minutes. After cooling, diethyl ether (5 ml) and water (5 ml) were added. The organic layer was washed with water, dried (MgSO4) and evaporated. The product was purified by flash chromatography (silica gel, 2-3% ethyl acetate:isohexane) to give the title compound as a clear oil (31 mg).

reactant | 3-(2-Bromophenyl)-5-chloro-2-(benzyloxy)pyridine | 0.214 mmol, 80 mg | BrC1=C(C=CC=C1)C=1C(=NC=C(C1)Cl)OCC1=CC=CC=C1 | C18H13BrClNO
reactant | 3-(carbethoxy)phenylboronic acid | 0.214 mmol, 42 mg | C(=O)(OCC)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | Potassium carbonate | 1.71 mmol, 236 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | toluene ethanol | 1 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0214 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 ml | O | H2O
product | 2′-{5-Chloro-2-(benzyloxy)-3-pyridinyl]-3-biphenylcarboxylic acid ethyl ester | 31 mg | C(C)OC(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)C=1C(=NC=C(C1)Cl)OCC1=CC=CC=C1 | C27H22ClNO3
